US05734081
[S-(R*,R*)[2-{2-[2-(1,4-Dicarboxy-butylcarbamoyl)-phenyldisulfanyl]-benzoylamino}-hexanedioic acid
This compound was prepared according to the procedure described in Example 50 using [S-(R*,R*)]-2-{2-[2-(1,4-bis-tert-butoxycarbonyl-butylcarbamoyl)phenyldisulfanyl]-benzoylamino}-hexanedioic acid di-tert-butyl ester (1.1 g, 1.4 mmol) from Example 10 mL dichloromethane, 10 mL trifluoroacetic acid, and 1 mL anisole. The crude product was recrystallized from methanol/dimethylformamide/water to afford 0.6 of the title compound, mp 259°-260° C.

reactant | 2-{2-[2-(1,4-bis-tert-butoxycarbonyl-butylcarbamoyl)phenyldisulfanyl]-benzoylamino}-hexanedioic acid di-tert-butyl ester | 1.4 mmol, 1.1 g | C(C)(C)(C)OC(C(CCCC(=O)OC(C)(C)C)NC(C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(NC(CCCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O)=O)=O | C42H60N2O10S2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-{2-[2-(1,4-Dicarboxy-butylcarbamoyl)-phenyldisulfanyl]-benzoylamino}-hexanedioic acid | C(=O)(O)C(CCCC(=O)O)NC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)NC(C(=O)O)CCCC(=O)O)C=CC=C1 | C26H28N2O10S2
